US05151507
A. Preparation of 9-(Carboxyethylidene)-3,6-dihydroxy-9H-xanthene (SF-505)
Resorcinol (33.0 g, 0.300 mol) and succinic anhydride (30.0 g, 0.300 mol) were placed in a round bottomed flask and purged with nitrogen. Methane-sulfonic acid (150 mL) was added and the solution was stirred at 65° C. for 2 hours under an atmosphere of nitrogen. The reaction mixture was added dropwise to rapidly stirred, ice-cooled water (1 L) with simultaneous addition of 50% aqueous sodium hydroxide to maintain pH 2.5 +/0.5. The product which appeared as a granular precipitate was collected by filtration and rinsed with water (3×100 mL) then acetone (3×100 mL). The product was air-dried then vacuum-dried (vacuum oven) at 110° C. for 18 hours to afford a dark red powder (37.7 g, 88%).

reactant | Resorcinol | 0.300 mol, 33.0 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | succinic anhydride | 0.300 mol, 30.0 g | C1(CCC(=O)O1)=O | C4H4O3
product | 9-(Carboxyethylidene)-3,6-dihydroxy-9H-xanthene | 37.7 g, 88% | C(=O)(O)CC=C1C2=CC=C(C=C2OC=2C=C(C=CC12)O)O | C16H12O5
